US08022062B2
Use a method similar to the General Procedure 5-1 to couple 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine (500 mg, 1.17 mmol) with pyridin-2-ylmethylamine (254 mg, 2 equiv.) using palladium acetate (0.1 equiv.), BINAP (0.3 equiv.) and cesium carbonate (1.4 equiv.) in toluene (5 mL). Purify the residue by chromatography on silica gel eluting with hexane/EtOAc (10:1, 5:1, 3:1, and 1:1) to give 7-chloro-6-(pyridin-2-ylmethylamino)-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine as an oil.

reactant | 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 1.17 mmol, 500 mg | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)OS(=O)(=O)C(F)(F)F | C13H10ClF6NO4S
reactant | pyridin-2-ylmethylamine | 254 mg, 2 equiv. | N1=C(C=CC=C1)CN | C6H8N2
reactant | BINAP | 0.3 equiv. | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | cesium carbonate | 1.4 equiv. | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium acetate | 0.1 equiv. | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 7-chloro-6-(pyridin-2-ylmethylamino)-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)NCC1=NC=CC=C1 | C18H17ClF3N3O
